US07166588B2
5-[6-[(4aS,6R,8aS)-4a,5,9,10,11,12-Hexahydro-6-hydroxy-3-methoxy-6H-benzofuro[3a,3,2-ef][2]benzazepine-11-yl]-1-oxohexyl]-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2-(1H)-one (SPH-1500)
Norgalanthamine (1.13 g, 1.64 mmol), 5-(6-iodo-1-oxohexyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one (1.50 g, 3.75 mmol) and N-ethyldiisopropylamine (1.46 g, 11.3 mmol) are stirred in absolute chloroform (20 ml) for 54 hours at boiling temperature.

reactant | Norgalanthamine | 1.64 mmol, 1.13 g | COC1=C2C3=C(CNCC[C@]34C=C[C@@H](C[C@@H]4O2)O)C=C1 | C16H19NO3
reactant | 5-(6-iodo-1-oxohexyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one | 3.75 mmol, 1.50 g | ICCCCCC(=O)C1CN2C3=C(C=CC=C3C1)CC2=O | C17H20INO2
reactant | N-ethyldiisopropylamine | 11.3 mmol, 1.46 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-[6-[(4aS,6R,8aS)-4a,5,9,10,11,12-Hexahydro-6-hydroxy-3-methoxy-6H-benzofuro[3a,3,2-ef][2]benzazepine-11-yl]-1-oxohexyl]-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2-(1H)-one | O[C@@H]1C[C@@H]2OC3=C(C=CC4=C3[C@]2(CCN(C4)CCCCCC(=O)C4CN2C3=C(C=CC=C3C4)CC2=O)C=C1)OC | C33H38N2O5
